US08258122B2
b) 2-Methyl-2-(tetrahydro-2H-pyran-2-yloxy)propanoic acid
To a solution of ethyl 2-methyl-2-(tetrahydro-2H-pyran-2-yloxy)propanoate (0.5 g, 2.31 mmol) in tetrahydrofuran (2 mL) and methanol (6 mL) was added a solution of lithium hydroxide (0.277 g, 11.56 mmol) in water (6 mL). The resulting mixture was stirred at room temperature overnight. The organic solvents were removed under reduced pressure and the resulting aqueous phase was acidified using hydrochloric acid 2N until pH=4. The formed precipitate was extracted with ethyl ether (3×25 mL). The combined organic layers were washed with brine, dried over anhydrous sodium sulphate and concentrated to yield the title compound (0.42 g, 96%) as a colourless oil.

reactant | ethyl 2-methyl-2-(tetrahydro-2H-pyran-2-yloxy)propanoate | 2.31 mmol, 0.5 g | CC(C(=O)OCC)(C)OC1OCCCC1 | C11H20O4
reactant | lithium hydroxide | 11.56 mmol, 0.277 g | [OH-].[Li+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | methanol | 6 mL | CO | CH4O
solvent | water | 6 mL | O | H2O
product | 2-Methyl-2-(tetrahydro-2H-pyran-2-yloxy)propanoic acid | 0.42 g, 96% | CC(C(=O)O)(C)OC1OCCCC1 | C9H16O4
